US04946869
Avarol:
Whitish crystals; m.p. 146°-148° C. (chloroform); other characteristics same as for Avarone.

reactant | Avarone | C[C@H]1CC[C@]2([C@H]([C@]1(C)CC3=CC(=O)C=CC3=O)CCC=C2C)C | C21H28O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Avarol | C[C@H]1CC[C@]2([C@H]([C@]1(C)CC=3C=C(C=CC3O)O)CCC=C2C)C | C21H30O2
